US05491172
2,6 diisopropylbromobenzene (see J. Org. Chem., 42(14):2426-2431 (1977) forpreparation) (30 g, 124.4 mmol) was added to a suspension of Li powder (1.9g, 273.6 mmol) in ether (100 mL) heated under reflux, the heating was continued for another 4 hours, cooled, and the mixture was poured into ethylene oxide which was precooled to -78° C. The mixture was warmed slowly to room temperature, saturated NH4Cl solution was added slowly with caution, the ether layer was separated and washed with brine, dried over MgSO4, filtered, and the solvent was evaporated to dryness. After column chromatography (3:1 hexane:ethyl acetate) pure 2,6-diisopropylphenylethanol was obtained (17 g, 6.3%); NMR (CDCl3): δ 1.2-1.3 (m, 12H) , 3.05 (t, 2H), 3.15-3.35 (m, 2H), 3.7-3.8 (t, 2H), 7.1-7.3 (m, 3H) ppm.

reactant | 2,6 diisopropylbromobenzene | 124.4 mmol, 30 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)Br | C12H17Br
reactant | ethylene oxide | C1CO1 | C2H4O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | ether | 100 mL | CCOCC | C4H10O
product | 2,6-diisopropylphenylethanol | C(C)(C)C1=C(C(=CC=C1)C(C)C)C(C)O | C14H22O
